US05886211
To a solution of 1.0 g (6.75 mmol) of 3-isochromanone in 10 ml of toluene was added 2.68 ml (29.7 mmol) of dichloromethyl methyl ether, followed by stirring at room temperature for 24 hours. A mixed solution of 3 ml of methyl alcohol and 1.1 ml of pyridine was added thereto at room temperature. After stirring for an additional 2 hour period, 20 ml of 1N hydrochloric acid was added thereto, and the reaction mixture was extracted with three 20 ml portions of ethyl ether. The ether extracts were combined and washed with two 20 ml portions of 1N hydrochloric acid. Ethyl ether was removed by evaporation, and the residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 0.912 g (yield: 68.0%) of pure methyl 2-(chloromethyl)phenylacetate.

reactant | 3-isochromanone | 6.75 mmol, 1.0 g | C1OC(CC2=CC=CC=C12)=O | C9H8O2
reactant | dichloromethyl methyl ether | 29.7 mmol, 2.68 ml | COC(Cl)Cl | C2H4Cl2O
reactant | methyl alcohol | 3 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(chloromethyl)phenylacetate | 0.912 g, yield: 68.0% | ClCC1=C(C=CC=C1)CC(=O)OC | C10H11ClO2
